US07199105B2
To a solution of 4-butyl-4-fluoro-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (270 mg, 0.89 mmol) in THF (12 mL) and water (4 mL), was added lithium hydroxide monohydrate (45 mg, 1.07 mmol). The reaction mixture was stirred at room temperature for 16 hours. THF was removed under vacuum and the residue was taken up in ethyl acetate (150 mL), washed with 10% citric acid (100 mL) and brine (20 mL). Removal of solvent provided 4-butyl-4-fluoro-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (260 mg, 100%).

reactant | 4-butyl-4-fluoro-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 0.89 mmol, 270 mg | COC(=O)C1N(CC(C1)(F)CCCC)C(=O)OC(C)(C)C | C15H26FNO4
reactant | lithium hydroxide monohydrate | 1.07 mmol, 45 mg | O.[OH-].[Li+]
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | water | 4 mL | O | H2O
product | 4-butyl-4-fluoro-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 260 mg, 100% | C(C)(C)(C)OC(=O)N1C(CC(C1)(F)CCCC)C(=O)O | C14H24FNO4
